US07279477B2
Preparation of N-{3-Phenyl-4-[4-(2,2,2-trifluoro-1-hydroxy-1-trifluoromethyl-ethyl)-phenyl]-isoxazol-5-yl}-isobutyramide
Sodium hydride (18 mg 0.45 mmol) is added to the solution of 2-[4-(5-Amino-3-phenyl-isoxazol4-yl)-phenyl]-1,1,1,3,3,3-hexafluoro-propan-2-ol in DMF at 0° C. under argon atmosphere. The reaction mixture is stirred at room temperature under argon atmosphere for 30 minutes before adding isobutyryl chloride (23.8 ul, 0.23 mmol). The solution is allowed to stir for 8 hours and diluted with EtOAc. The organic layer is washed with H2O brine and dried over MgSO4. Concentration and purification by preparative TLC afford the title compound. 1HNMR 1.11 (s, 3H), 1.12 (s, 3H), 2.60 (m, 1H), 7.26 (d, 2H), 7.4 (m, 5H), 7.72 (d, 2H); ESIMS: m/z 471 (M−H).

reactant | Sodium hydride | 0.45 mmol, 18 mg | [H-].[Na+]
reactant | 2-[4-(5-Amino-3-phenyl-isoxazol4-yl)-phenyl]-1,1,1,3,3,3-hexafluoro-propan-2-ol | NC1=C(C(=NO1)C1=CC=CC=C1)C1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C18H12F6N2O2
reactant | isobutyryl chloride | 0.23 mmol, 23.8 ul | C(C(C)C)(=O)Cl | C4H7ClO
solvent | DMF | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-{3-Phenyl-4-[4-(2,2,2-trifluoro-1-hydroxy-1-trifluoromethyl-ethyl)-phenyl]-isoxazol-5-yl}-isobutyramide | C1(=CC=CC=C1)C1=NOC(=C1C1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O)NC(C(C)C)=O | C22H18F6N2O3
